US07375134B2
Step 2: Preparation of (2S)-1-{[tert-butyl(dimethyl)silyl]oxy}-N-[(1E)-2,2-difluoroethylidene]-4-methylpentan-2-amine
A mixture of (2S)-1-{[tert-butyl(dimethyl)silyl]oxy}-4-methylpentan-2-amine (8.5 g, 36.8 mmol) and difluoroacetaldehyde ethyl hemiacetal (5.0 g, 39.7 mmol) in benzene was refluxed with a Dean-stark trap overnight. Solvent was removed in vacuo. The residue was passed through a short silica column and eluted with hexanes:EtOAc (10:1) to give the title compound as a pale yellow oil.

reactant | (2S)-1-{[tert-butyl(dimethyl)silyl]oxy}-4-methylpentan-2-amine | 36.8 mmol, 8.5 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CC(C)C)N | C12H29NOSi
reactant | difluoroacetaldehyde ethyl hemiacetal | 39.7 mmol, 5.0 g | C(C)OC(C(F)F)O | C4H8F2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (2S)-1-{[tert-butyl(dimethyl)silyl]oxy}-N-[(1E)-2,2-difluoroethylidene]-4-methylpentan-2-amine | [Si](C)(C)(C(C)(C)C)OC[C@H](CC(C)C)/N=C/C(F)F | C14H29F2NOSi
